US07732448B2
Into 3 ml of acetonitrile were added 0.2 g of 4,6-dichloropyrimidine, 0.56 g of potassium carbonate and 0.26 g of 2,5-dimethylhexahydro-1H-azepine hydrochloride, and the mixture was stirred for 3 hours at 80%. The reaction mixture was cooled to near room temperature, a saturated ammonium chloride aqueous solution was added therein, and the mixture was extracted with tert-butyl methyl ether three times. The organic layers were washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to obtain 0.3 g of 1-(6-chloropyrimidin-4-yl)-2,5-dimethylhexahydro-1H-azepine.

reactant | 4,6-dichloropyrimidine | 0.2 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | potassium carbonate | 0.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,5-dimethylhexahydro-1H-azepine hydrochloride | 0.26 g | Cl.CC1NCCC(CC1)C
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 1-(6-chloropyrimidin-4-yl)-2,5-dimethylhexahydro-1H-azepine | 0.3 g | ClC1=CC(=NC=N1)N1C(CCC(CC1)C)C | C12H18ClN3
